US08350033B2
Adding 2-bromomethyl-3,5,6-trimethylpyrazine (0.5 g, 3.02 mmol), ferulic acid ethyl ester (0.97 g, 4.37 mmol), anhydrous potassium carbonate (1.0 g, 7.25 mmol), and DMF (40 mL) into a 100 mL three-necked bottle in turn, heating to 85° C. with oil bath, stirring to react for 8 hours, TLC [V(cyclohexane):V(ethyl acetate)=3:1 as developing agent] detecting shows that reaction is complete, (Rf of raw material=0.6, Rf of product=0.5), filtering to obtain filtrate, adding 30 mL water, extracting with chloroform (3×30 mL), incorporating the chloroform layer and wishing with water (2×20 mL), drying with anhydrous sodium sulfate, recycling chloroform under reduced pressure to obtain a light yellow oily matter, separating with a silica column, wherein eluant is V(petroleum ether):V(ethyl acetate)=3:1, collecting product, recycling the solution under reduced pressure to obtain solid, 0.75 g (E)-3-(4-((3,5,6-Trimethylpyrazin-2-yl)methoxy)-3-methoxyphenyl)acrylic acid ethyl ester, a yield is 69.7%, m.p. 111.5-111.9° C.

reactant | 2-bromomethyl-3,5,6-trimethylpyrazine | 3.02 mmol, 0.5 g | BrCC1=NC(=C(N=C1C)C)C | C8H11BrN2
reactant | ferulic acid ethyl ester | 4.37 mmol, 0.97 g | C(C)OC(\C=C\C1=CC(OC)=C(O)C=C1)=O | C12H14O4
reactant | potassium carbonate | 7.25 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (E)-3-(4-((3,5,6-Trimethylpyrazin-2-yl)methoxy)-3-methoxyphenyl)acrylic acid ethyl ester | 0.75 g, yield is 69.7% | C(C)OC(\C=C\C1=CC(=C(C=C1)OCC1=NC(=C(N=C1C)C)C)OC)=O | C20H24N2O4
